US06492416B1
To a stirred solution of 68 ml thioanisole in 600 ml dichloromethane at 0° C., were added slowly in a series aluminum chloride (77.3 g) and (3-fluorophenyl)acetyl chloride (100 g). The reaction mixture was stirred for an hour, after which 1 L of aqueous HCl was added slowly to the reaction mixture. The quenched mixture was stirred for another hour, which was followed by extraction with methylene chloride. The organic layer was washed with brine and then was dried over anhydrous magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resulting residue was purified by recrystallization from hexane/dichloromethane to yield 142.9 g of 2-(3-fluorophenyl)-1-{4-(methylthio)-phenyl}-ethanone. mp: 94.5-95.5° C. NMR: δ2.52 (s, 3H), 4.23 (s, 2H), 6.95-7.05 (m, 3H),7.25-7.30 (m, 3H), 7.92 (d, J=8.7 Hz, 2H).

reactant | thioanisole | 68 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | aluminum chloride | 77.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (3-fluorophenyl)acetyl chloride | 100 g | FC=1C=C(C=CC1)CC(=O)Cl | C8H6ClFO
reactant | HCl | 1 L | Cl | ClH
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 2-(3-fluorophenyl)-1-{4-(methylthio)-phenyl}-ethanone | 142.9 g | FC=1C=C(C=CC1)CC(=O)C1=CC=C(C=C1)SC | C15H13FOS
